US07253286B2
N-[4-(6-Cyano-7-oxiranylmethoxyquinolin-4-yloxy)-2-fluorophenyl]-N′-(4-fluorophenyl)urea
After adding dimethylformamide (2 ml) and 4-fluorophenyl isocyanate (0.15 ml) to 4-(4-amino-3-fluorophenoxy)-7-oxiranylmethoxy-quinoline-6-carbonitrile (400 mg), the mixture was stirred overnight at room temperature. Water was added to the reaction solution and the precipitated crystals were filtered off to obtain the title compound (480 mg) as light yellow crystals.

reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | 4-fluorophenyl isocyanate | 0.15 ml | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | 4-(4-amino-3-fluorophenoxy)-7-oxiranylmethoxy-quinoline-6-carbonitrile | 400 mg | NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OCC2OC2)C=C1)F | C19H14FN3O3
solvent | Water | O | H2O
product | N-[4-(6-Cyano-7-oxiranylmethoxyquinolin-4-yloxy)-2-fluorophenyl]-N′-(4-fluorophenyl)urea | 480 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OCC1OC1)OC1=CC(=C(C=C1)NC(=O)NC1=CC=C(C=C1)F)F | C26H18F2N4O4
